US07132436B2
N-[4-(2-{[(2,4-dichloro-6-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)phenyl]acetamide
The title compound was prepared N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (8.1 mg) with purity >80%. MS (pos) m/z 456.2, 458.1.

reactant | N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide | NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C11H11N3OS
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | N-[4-(2-{[(2,4-dichloro-6-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)phenyl]acetamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C18H15Cl2N3O3S2
